Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2].[O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.3322738567500005
[H:10].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-4.63485425089
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:10][H:11])[O:12][H:13].[H:9]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13],-4.15235987333
[C:3][H:4].[H:1][C:2][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-9.06319598663
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][O:4][H:5],1.6428964545500002
[H:1][C:2]#[C:3][C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-1.93559502749
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.62218685227
[H:4].[O:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.450956757619999
[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-8.304569572839997
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]#[C:9][H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.99719789886
[C:5]([H:6])([H:7])[H:8].[H:1][C:2](=[C:3]=[O:4])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.408045230549
[H:11].[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11],-3.75781698653
[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7][H:8]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-6.59079875681
[C:1]#[C:2][C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3](=[O:4])[C:7]([H:8])([H:9])[H:10].[O:5][H:6],2.24099169668
[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[C:3]([O:4])#[C:5][H:6]>>[C:1]=[C:2]([C:3](=[O:4])[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-0.602063794109
[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])[H:9],4.40701886424
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9].[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.98798613939
[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-1.13082044895
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1([H:9])[H:10],-0.4089908450900001
[H:1][C:2]#[C:3][C:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])[H:12],-1.98112204654
[H:1][C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],3.03159882444
[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-5.1890351836
[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.326149537619997
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.96983951379
[C:1]=[C:2]1[C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]1([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])[H:10],1.8636926088900003
[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]=[C:7]1\[O:8][C:9]1([H:10])[H:11],-0.5486853067199999
[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-7.35498198894
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]=[O:3],1.7483090922099995
[C:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-1.00714150091
